US06380387B1
To a suspension of N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester (0.273 mmol, 133 mg) in ethanol (3 mL) was added aqueous 1.0 N sodium hydroxide (1.5 mL) at room temperature. The mixture was heated to 40-45° C. and the resulting clear solution was stirred for 15 h. The ethanol was removed under reduced pressure and the residue was diluted with water (25 mL) and NaOH (3 mL, 1.0N) to dissolve the sodium salt. The aqueous solution was washed with diethyl ether (50 mL) to remove any neutral impurities. The aqueous layer was acidified with 1.0 N HCl and the product was extracted into ethyl acetate (2×25 mL). The combined organic extracts were washed with brine solution (50 mL) and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the filtrate afforded 121 mg (94% yield) of N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine as an amorphous white solid. FAB-HRMS m/e calcd for C25H33N3O6 (M+H) 472.2448, found 472.2467.

reactant | N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | 0.273 mmol, 133 mg | COC([C@@H](NC(=O)C1(CCCC1)CCOC)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C26H35N3O6
reactant | sodium hydroxide | 1.0 N, 1.5 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine | 121 mg, 94% yield | COCCC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O | C25H33N3O6
